Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ presented to the emergency department with lower abdominal, 
epigastric and left flank pain associated with nausea and 
vomiting ___ times per day over ___ last 3 days. He denies any 
fevers. He does endorse dysuria x1. Denies any shortness of 
breath. No diarrhea  
In the ED intial vitals were: 96.8 138 170/96 18 94% RA.  
- Labs were significant for lipase 61, WBC 14.7 (82%PMN), Cr 
1.1, K 4, Trop-T: <0.01 x1, ALT 44, AST 21. CT abd-pelvis 
without contrast showed per prelim read fat stranding 
surrounding the tail of the pancreas and thickening of the 
adjacent peritoneum is concerning for focal pancreatitis. Patent 
splenic artery and vein. No free fluid or fluid collection. No 
renal stones, pyelonephritis or diverticulitis. CXR PA and LAT 
showed low lung volumes and bibasilar atelectasis. Patient was 
given IV zofran 4 mg x1, IV morphine 5 mg x1, ASA 325 mg x1. Pt 
is being admitted for fluid resuscitation and pain control.  
 
Vitals prior to transfer were: 99.3 107 148/82 22.  
On the floor, pt complains of abdominal pain that is ___.  
 
Review of Systems:  
(+) per HPI  
 
Past Medical History:
- Depression  
- Migraine  
- Syncope ___ attributed to History of orthostasis coupled with 
alcohol consumption (at that time, ETOH level of 269)  
- bifrontal SDHs in ___  
- h/o alcoholism  
- s/p repair of orbital floor fractures  
- s/p fractures left ulna with pinning  
- right talus fracture ___  
 
Social History:
___
Family History:
Has had 5 family members die at young age (___) of "heart  
attacks" or "heart failure". Brother with bipolar depression.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals - 98.8 114/98 112 20 98RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, nontender supple neck, no LAD, no JVD  
CARDIAC: Regular rhythm, slightly tachycardic, N S1/S2, no 
murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, non tender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact  
 
DISCHARGE PHYSICAL EXAM:  
Vitals:  99.6 (99.6)  128/68  95  16  95% RA
Tele:  SR 90-110, < 100 since 2300 last night
GENERAL: alert and oriented, NAD  
HEENT: AT/NC, EOMI, MMM, OP clear
CARDIAC: RRR, Nl S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, non tender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema.  
 
Pertinent Results:
ADMISSION LABS:
___ 06:40PM BLOOD WBC-14.7*# RBC-4.92 Hgb-16.4 Hct-45.9 
MCV-93 MCH-33.3* MCHC-35.7* RDW-13.0 Plt ___
___ 06:40PM BLOOD Neuts-82.4* Lymphs-11.9* Monos-4.5 
Eos-0.9 Baso-0.2
___ 06:40PM BLOOD Glucose-138* UreaN-16 Creat-1.1 Na-136 
K-4.0 Cl-100 HCO3-21* AnGap-19
___ 06:40PM BLOOD ALT-44* AST-21 AlkPhos-91 TotBili-1.2
___ 06:40PM BLOOD Lipase-61*
___ 06:40PM BLOOD cTropnT-<0.01
___ 11:00PM URINE Color-Straw Appear-Clear Sp ___
___ 11:00PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:00PM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE Epi-0

DISCHARGE LABS:
___ 06:45AM BLOOD WBC-9.5 RBC-4.23* Hgb-14.1 Hct-40.6 
MCV-96 MCH-33.3* MCHC-34.6 RDW-13.0 Plt ___
___ 06:45AM BLOOD Glucose-90 UreaN-6 Creat-0.9 Na-136 K-4.0 
Cl-101 HCO3-27 AnGap-12
___ 06:45AM BLOOD Calcium-8.6 Phos-2.1* Mg-2.2

MICROBIOLOGY:  NONE

IMAGING:
CT ABDOMEN/PELVIS ___:
FINDINGS:  Linear opacity at the lung bases most likely 
represents atelectasis or scarring.  A nodule in the right lung 
base measures 2 mm.  There is no pleural or pericardial 
effusion. Diffuse hypodensity of the liver parenchyma indicates 
hepatic steatosis. There are no focal liver lesions.  The 
gallbladder appears normal.  Fat stranding adjacent to the tail 
of the pancreas may represent focal pancreatitis.  The left 
renal fascia is thickening and there is adjacent fat stranding.  
The spleen and adrenal glands appear normal.  The kidneys 
enhance symmetrically
and promptly excrete contrast.  No renal stones or concerning 
renal lesions are identified. The bladder is partially filled 
and appears normal.  The prostate is unremarkable. The stomach 
is decompressed.  The small bowel appears normal without 
evidence of wall thickening or obstruction.  There is colonic 
diverticulosis without evidence of diverticulitis.  The appendix 
is visualized in the right lower quadrant and appears normal.  
There is no free fluid, free air or pathologic lymphadenopathy 
by CT size criteria.  There are calcifications within a normal
caliber aorta. 
OSSEOUS STRUCTURES:  No concerning osteoblastic or osteolytic 
lesions identified.
IMPRESSION:
1.  Fat stranding adjacent to the tail of the pancreas and 
thickening of the left pararenal fascia is most consistent with 
acute pancreatitis.  There is no decreased pancreatic 
parenchymal enhancement, peripancreatic free fluid or fluid 
collections.  No biliary dilation or gallstones identified.
2.  The kidneys appear normal without evidence of stones, 
hydronephrosis or masses.
3.  Hepatic steatosis.
4.  Diverticulosis without evidence of diverticulosis.
5.  A nodule in the right lung base measures 2 mm. Follow-up CT 
in ___ year is recommended if the patient has risk factors for 
lung cancer or known prior malignancy.

RUQ U/S ___:
FINDINGS:  The liver is mildly echogenic, consistent with fatty 
deposition.  No focal lesions or intrahepatic biliary ductal 
dilatation is seen.  The common bile duct is normal measuring 
0.4 cm.  The pancreas is not assessed on this exam.  The 
gallbladder is normal without evidence of cholelithiasis or 
cholecystitis.  Doppler assessment of the main portal vein 
demonstrates normal hepatopetal flow.  There is no evidence of 
ascites. Limited assessment of the right kidney is unremarkable.
IMPRESSION:
1.  No evidence of cholelithiasis or cholecystitis.
2.  Echogenic liver is consistent with fatty deposition.  More 
advanced forms of liver disease such as cirrhosis or hepatic 
fibrosis cannot be excluded by this study, however.

CXR ___:
FINDINGS:  The lung volumes are low.  There is persistent mild 
relative elevation of the right hemidiaphragm compared to the 
left side.  The cardiac, mediastinal and hilar contours appear 
stable.  There is no pleural effusion or pneumothorax.  New 
streaky opacities involve each lung base as well as the left mid 
lung, the latter probably associated with the lingula.  This 
appearance is very suggestive of minor atelectasis.  Elsewhere, 
the lungs appear clear.
IMPRESSION:  New basilar opacities, most likely due to 
atelectasis.
 
Brief Hospital Course:
___ with PMH of migraine, depression and history of alcoholism 
is admitted with abdominal pain, nausea and vomiting and CT 
findings strongly suggestive of pancreatitis.  

# Abdominal pain: Patient presented with 2 days of N/V/abdominal 
pain. CT findings suggestive of pancreatitis with lipase of 61. 
RUQ u/s and CT do not suggest cholestatic source, and ALP was 
normal.  Leukocytosis on admission was probably reactive to 
pancreatitis, resolved.  No fever during admission.  Abdominal 
exam benign.  Patient felt better by the morning after 
admission, without emesis for almost 48 hours and with improved 
appetite, able to tolerate solid foods.  Provided IV morphine 
and then PO oxycodone for pain control.  Used IV ativan for 
nausea control given QTc prolongation.

# Sinus tachycardia: Initially was in sinus tachycardia 100-120s 
on admission.  No known history of tachycardia.  ___ be 
associated with dehydration and pain, no other clear sympathetic 
drivers.  Resolved with IVF.

# Long QT:  No obvious QT prolonging medications.  Avoided 
Zofran, compazine given this EKG finding.  No evidence of 
arrhythmia on telemetry.
# Hip pain: Likely MSK given resolution with passive ROM.  
Resolved by discharge.
# Depression: continued Wellbutrin
# Migraine: held home Fioricet
 
# Code: full - confirmed with pt  
# Emergency Contact: ___ (friend) ___  

TRANSITIONAL ISSUES:
- CT abdomen:  there was a 2 mm right lower lobe nodule.  
Follow-up CT in ___ year is recommended if the patient has risk 
factors for lung cancer. No follow-up is recommended if the 
patient does not have any risk factors.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen-Caff-Butalbital 1 TAB PO BID:PRN migraine 
2. Wellbutrin XL (buPROPion HCl) 300 mg oral daily 

 
Discharge Medications:
1. Acetaminophen-Caff-Butalbital 1 TAB PO BID:PRN migraine 
2. Wellbutrin XL (buPROPion HCl) 300 mg oral daily 
3. Lorazepam 0.5 mg PO Q4H:PRN nausea 
___ cause sedation.  Do not drive while using. 
RX *lorazepam 0.5 mg 1 tablet by mouth every eighter hours Disp 
#*10 Tablet Refills:*0
4. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
___ cause sedation.  Do not drive while using.  ___ cause 
constipation. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six hours Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pancreatitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You came to the hospital with abdominal pain 
and nausea.  You were also found to be dehydrated.  A CT scan 
showed inflammation of your pancreas.  You were treated with IV 
fluids, pain medication, and bowel rest.  You then advanced your 
diet and were able to tolerate some solid foods before 
discharge.  We recommend that you avoid fatty or spicy foods for 
the next few days as you recover.  Be sure to drink plenty of 
fluids; your urine should be light yellow to indicate you are 
hydrated.

We have given you a prescription for pain medication for the 
next week.  If you find that you have pain that requires more 
medication, please contact your primary care physician Dr ___.

You have an appointment scheduled with Dr ___ ___.
 
Followup Instructions:
___